US09382188B2
C) ethyl 2′-fluoro-4-hydroxy-5′-methoxy-[1,1′-biphenyl]-2-carboxylate
Under an argon atmosphere, to a solution of ethyl 2-bromo-5-hydroxybenzoate (1.13 g) in toluene (30 mL) were added 2-fluoro-5-methoxyphenylboronic acid (1.18 g), 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (379 mg), 75% tris(dibenzylideneacetone)dipalladium (0) (281 mg) and 2.0 M aqueous sodium carbonate solution (6.9 mL), and the mixture was stirred at 100° C. for 21.5 hr. The reaction mixture was diluted with water and 1N hydrochloric acid, and extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (1.38 g) as a pale-yellow oil.

reactant | ethyl 2-bromo-5-hydroxybenzoate | 1.13 g | BrC1=C(C(=O)OCC)C=C(C=C1)O | C9H9BrO3
reactant | 2-fluoro-5-methoxyphenylboronic acid | 1.18 g | FC1=C(C=C(C=C1)OC)B(O)O | C7H8BFO3
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 379 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | sodium carbonate | 2.0 M, 6.9 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | hydrochloric acid | 1N | Cl | ClH
catalyst | tris(dibenzylideneacetone)dipalladium | 281 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | ethyl 2′-fluoro-4-hydroxy-5′-methoxy-[1,1′-biphenyl]-2-carboxylate | 1.38 g | FC1=C(C=C(C=C1)OC)C=1C(=CC(=CC1)O)C(=O)OCC | C16H15FO4
